* UCC21550 Dead Time Verification
* Lesson 05

* Parameters
.param DT_CAP=200p

* Behavioral Model
.subckt UCC21550 INA INB OUTA OUTB VDD2 GND2 PARAMS: CDEL=200p
* Inputs (Threshold 1.5V)
* Logic: A = INA & !INB (Interlock)
E_a_raw a_raw 0 VALUE={ 15 * (V(INA)>1.5) * (V(INB)<1.5) }
E_b_raw b_raw 0 VALUE={ 15 * (V(INB)>1.5) * (V(INA)<1.5) }

* Dead Time Generation (Rising Edge Delay)
* RC Time Constant = 1k * CDEL
* Delay to 50% (7.5V) is approx 0.69 * RC
* To get Deadtime T, CDEL = T / 690
* Fast discharge diode for immediate turn-off
R_dta a_raw a_del 1k
C_dta a_del 0 {CDEL}
D_dta a_del a_raw D_ideal

R_dtb b_raw b_del 1k
C_dtb b_del 0 {CDEL}
D_dtb b_del b_raw D_ideal

* Output Stage (Comparator)
E_outa OUTA GND2 VALUE={ (V(a_del)>7.5) ? V(VDD2) : 0 }
E_outb OUTB GND2 VALUE={ (V(b_del)>7.5) ? V(VDD2) : 0 }

.model D_ideal D(N=0.001 RS=0.1)
.ends

* Testbench
Vdd2 vdd2 0 DC 15
Vina ina 0 PULSE(0 3.3 1u 10n 10n 5u 10u)
* Vinb is inverted Vina (Complementary with 0 deadtime)
* To simulate overlap danger, we make them overlap slightly?
* Or just perfect complementary to see if DT is added?
* Let's use complementary 50% duty.
Vinb inb 0 PULSE(0 3.3 6u 10n 10n 5u 10u)
* Period 10u. A high 1u-6u. B high 6u-11u. 
* Overlap at 6u? 
* A falls at 6u (starts 1u, width 5u).
* B rises at 6u.
* So 0ns deadtime input.

X1 ina inb outa outb vdd2 0 UCC21550 PARAMS: CDEL={DT_CAP}

.tran 10n 12u

.control
* Sweep DT_CAP from 100p to 5.1n (Approx 70ns to 25ns? - need to verify figure)
* Loop simulation
foreach val 100p 200p 500p 1000p 5.1n
  alterparam DT_CAP=$val
  reset
  run
  
  * Measure Dead Time
  * Time between A falling and B rising
  * A falls at 6u. B rises at 6u (input).
  * Output: A should fall at 6u (fast). B should rise at 6u + DT.
  * Measure time from v(outa)=7.5 FALL to v(outb)=7.5 RISE
  meas tran t_deadtime TRIG v(outa) VAL=7.5 FALL=1 TARG v(outb) VAL=7.5 RISE=1
  print t_deadtime
end
.endc
.end
